US06780855B2
8.4 g of 11β-fluoro-7α-(5-bromopentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one in 90 ml of tetrahydrofuran is allowed to react with 9.0 ml of 3,4-dihydropyran and 805 mg of p-toluenesulfonic acid hydrate at room temperature. After 7 hours, 1 ml of triethylamine is added, diluted with ethyl acetate, washed neutral with saturated sodium chloride solution and dried on sodium sulfate. The chromatography on silica gel with a hexane-ethyl acetate gradient yields 7.6 g of 11β-fluoro-7α-(5-bromopentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one as a foam.

reactant | 11β-fluoro-7α-(5-bromopentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one | 8.4 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCBr)O | C23H30BrFO2
reactant | 3,4-dihydropyran | 9.0 ml | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid hydrate | 805 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-fluoro-7α-(5-bromopentyl)-3-(tetrahydropyran-2-yloxy)-estra-1,3,5(10)-trien-17-one | 7.6 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCBr)OC1OCCCC1 | C28H38BrFO3
